US08871792B2
Butyric acid (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)-hydrazino]-2-hydroxypropionyloxymethyl Ester
To a solution of (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic acid (200 mg, 335 μmol) in dry DMF (6 mL) was added chloromethyl butyrate (68 mg, 503 mmol), NaI (101 mg, 670 mmol), and 2,6-dimethylpyridine (143 mg, 1.3 mmol) in portions at room temperature. The resulting mixture was stirred at room temperature for 8 hours. Water (12 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined organic layers were dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (PE:EtOAc=3:1) to yield the title compound as a white solid (21 mg). LC-MS: 625.9 [M+H]+. 1H NMR (DMSO-d6, 400 MHz) δ 0.84 (t, J=7.4 Hz, 3H), 1.45-1.56 (m, 2H), 2.29 (t, J=7.3 Hz, 2H), 3.31-3.17 (m, 2H), 4.18-4.35 (m, 2H), 4.35 (t, J=5.3 Hz, 1H), 5.68-5.79 (m, 2H), 7.28 (t, J=7.4 Hz, 1H), 7.34-7.40 (m, 1H), 7.43-7.55 (m, 7H), 7.58 (dd, J=6.8, 2.6 Hz, 1H), 7.90 (d, J=7.6 Hz, 2H), 9.98 (s, 1H), 12.76 (s, 1H).

reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic acid | 335 μmol, 200 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)C[C@H](C(=O)O)O)F | C25H21ClFN5O5
reactant | chloromethyl butyrate | 503 mmol, 68 mg | C(CCC)(=O)OCCl | C5H9ClO2
reactant | NaI | 670 mmol, 101 mg | [Na+].[I-]
reactant | 2,6-dimethylpyridine | 1.3 mmol, 143 mg | CC1=NC(=CC=C1)C | C7H9N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | Water | 12 mL | O | H2O
product | Butyric acid (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)-hydrazino]-2-hydroxypropionyloxymethyl Ester | 21 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)C[C@H](C(=O)OCOC(CCC)=O)O)F | C30H29ClFN5O7
